US08802679B2
1-{5-[3-({[N-(tert-Butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperidine-4-carboxylic acid (200 mg) and N-methylcyclohexanamine (94 mg) were suspended in methylene chloride (4 ml), and WSC hydrochloride (159 mg) and HOBt (112 mg) were added thereto, followed by stirring at room temperature for 3 hours. The reaction mixture was subjected to liquid separation with CHCl3 and a saturated aqueous sodium hydrogen carbonate solution. The organic layer was separated, and then the aqueous layer was extracted with CHCl3 again. These organic layers were combined and dried over Na2SO4, and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (0% to 5% MeOH/CHCl3) to obtain tert-butyl (2-{[3-(2-{4-[cyclohexyl(methyl)carbamoyl]piperidin-1-yl}pyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate (169 mg).

reactant | 1-{5-[3-({[N-(tert-Butoxycarbonyl)glycyl](methyl)amino}methyl)phenyl]pyrimidin-2-yl}piperidine-4-carboxylic acid | 200 mg | C(C)(C)(C)OC(=O)NCC(=O)N(C)CC=1C=C(C=CC1)C=1C=NC(=NC1)N1CCC(CC1)C(=O)O | C25H33N5O5
reactant | N-methylcyclohexanamine | 94 mg | CNC1CCCCC1 | C7H15N
reactant | WSC hydrochloride | 159 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 112 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (2-{[3-(2-{4-[cyclohexyl(methyl)carbamoyl]piperidin-1-yl}pyrimidin-5-yl)benzyl](methyl)amino}-2-oxoethyl)carbamate | 169 mg | C1(CCCCC1)N(C(=O)C1CCN(CC1)C1=NC=C(C=N1)C=1C=C(CN(C(CNC(OC(C)(C)C)=O)=O)C)C=CC1)C | C32H46N6O4
